US09255094B2
Preparation of 2-(8-chloro-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-cyclobutyl-1-(4-fluorophenyl)ethanol (Compound No. 1-6)
8-Chloro-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole (1.5 g, 6 mmol) was dissolved in DMF (15 mL) and stirred for 5 min. Sodium hydride (720 mg, 10 mmol) was then added to it portionwise under nitrogen. This was followed by addition of 2-cyclobutyl-2-(4-fluorophenyl)oxirane (1.906 g, 18 mmol) at RT, and the reaction mixture was stirred for 18 h. After completion of reaction, the reaction mixture was poured into ice water and the product extracted with EtOAc. The organic layer was washed with water, dried over sodium sulfate and concentrated under reduced pressure to give the crude product which was purified by silica gel (#100-200 mesh) column chromatography using 1% MeOH in DCM as eluent. The pure compound was converted into the oxalate salt. 1HNMR (CDCl3, Oxalate salt) d (ppm): 7.30 (d, 1H), 7.20 (m, 2H), 6.95 (m, 4H), 4.20 (m, 1H), 4.0 (m, 1H), 3.80 (m, 2H), 3.10 (m, 1H), 2.70 (m, 4H), 2.50 (s, 3H), 2.20 (m, 2H), 2.0 (d, 1H), 1.80 (t, 2H), 1.70 (m, 1H).

reactant | 8-Chloro-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole | 6 mmol, 1.5 g | ClC1=CC=2C3=C(NC2C=C1)CCN(C3)C | C12H13ClN2
reactant | Sodium hydride | 10 mmol, 720 mg | [H-].[Na+]
reactant | 2-cyclobutyl-2-(4-fluorophenyl)oxirane | 18 mmol, 1.906 g | C1(CCC1)C1(OC1)C1=CC=C(C=C1)F | C12H13FO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-(8-chloro-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-1-cyclobutyl-1-(4-fluorophenyl)ethanol | ClC1=CC=2C3=C(N(C2C=C1)CC(O)(C1=CC=C(C=C1)F)C1CCC1)CCN(C3)C | C24H26ClFN2O
